US07186715B2
N-boc-4-{2-[2-(ethyl-methanesulfonyl-amino)-2-methyl-propoxy]-phenyl}-piperazine
To a solution of N-boc-4-[2-(2-methanesulfonylamino-2-methyl-propoxy)-phenyl]-piperazine (197 mg, 0.46 mmol) in 4 mL of DMF was added NaH (55 mg of a 60% dispersion in oil, 1.38 mmol). After stirring for about 30 minutes, EtI (550 uL, 6.88 mmol) was added. After stirring at 45° C. for about an hour, the mixture was quenched with saturated aqueous sodium bicarbonate. The mixture was diluted with EtOAc, washed with water and brine, and then dried (Na2SO4), filtered and concentrated. The material was combined with 0.36 mmol of crude material from a previous reaction and purified by silica gel chromatography (35 g SiO2, 10 to 30% EtOAc/hexanes, over 30 minutes at 35 mL/min.) to afford about 323 mg (0.71 mmol, 86% combined yield) of the final compound. LRMS (electrospray): 456.2 [M+1]

reactant | N-boc-4-[2-(2-methanesulfonylamino-2-methyl-propoxy)-phenyl]-piperazine | 0.46 mmol, 197 mg | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)OCC(C)(C)NS(=O)(=O)C | C20H33N3O5S
reactant | NaH | [H-].[Na+]
reactant | EtI | 6.88 mmol, 550 uL | C(C)I | C2H5I
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-boc-4-{2-[2-(ethyl-methanesulfonyl-amino)-2-methyl-propoxy]-phenyl}-piperazine | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)OCC(C)(C)N(S(=O)(=O)C)CC | C22H37N3O5S
